US07595324B2
Thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
To a stirred solution of methyl-2-aminothiophene-3-carboxylate (2.03 g, 12.9 mmol) in acetic acid (65 mL) and water (6.5 mL) was added a solution of potassium cyanate (3.14 g, 38.7 mmol) dissolved in water (10.4 mL) dropwise via syringe. The reaction was stirred at room temperature for 15 h, upon completion of the reaction; the reaction mixture was concentrated to 75% and filtered off white solid. To the solid was added 6% aqueous sodium hydroxide (16 mL) and refluxed for 2 h. After cooling to room temperature, the solution was acidified using 12N HCl to pH=6. The resultant precipitate was filtered, washed with water and dried in a vacuum oven overnight to give 546 mg (25%) of the title compound as an orange solid which was used without any further purification:

reactant | methyl-2-aminothiophene-3-carboxylate | 12.9 mmol, 2.03 g | COC(=O)C1=C(SC=C1)N | C6H7NO2S
reactant | potassium cyanate | 38.7 mmol, 3.14 g | [O-]C#N.[K+]
solvent | acetic acid | 65 mL | C(C)(=O)O | C2H4O2
solvent | water | 6.5 mL | O | H2O
solvent | water | 10.4 mL | O | H2O
product | Thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 546 mg, 25% | N1C(NC(C2=C1SC=C2)=O)=O | C6H4N2O2S
